US06548493B1
(±)-cis-2-(2,3-dichlorophenyl)-10-propyl-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
To a solution of (±)-cis-2-(2,3-dichlorophenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (30 mg, 0.083 mmol) in 1,4-dioxane (0.5 mL) and N,N-diisopropylethylamine (108 mg, 0.83 mmol) were added 1-bromopropane (21 mg, 0.17 mmol) and KI (catalytic amount). The reaction mixture was heated at 100° C. for 15 h. The reaction mixture was cooled to 20° C. then concentrated in vacuo and chromatographed on a silica gel column by elution with CHCl3/MeOH (99/1) to give the title compound (27 mg, 82%) as a yellow oil. 1H NMR (CDCl3, 300 MHz) δ0.92 (t, J=7.3 Hz, 3H), 1.58-1.75 (br, 2H), 2.03-2.23 (m, 5H), 2.42-2.55 (br, 2H), 2.58-2.67 (m, 1H), 2.75 (t, J=7.4 Hz, 2H), 2.85-2.95 (br, 1H), 2.98-3.12 (br, 1H), 3.31 (dt, J=10.3, 3.6 Hz, 1H), 3.37-3.45 (br, 2H), 6.94 (s, 1H), 6.97 (s, 1H), 7.15-7.20 (m, 2H), 7.36-7.42 (m, 1H) ppm.

reactant | (±)-cis-2-(2,3-dichlorophenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.083 mmol, 30 mg | ClC1=C(C=CC=C1Cl)C=1C=C2CCCN3C2=C(C1)[C@@H]1[C@H]3CCNC1 | C20H20Cl2N2
reactant | N,N-diisopropylethylamine | 0.83 mmol, 108 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-bromopropane | 0.17 mmol, 21 mg | BrCCC | C3H7Br
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (±)-cis-2-(2,3-dichlorophenyl)-10-propyl-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 27 mg, 82% | ClC1=C(C=CC=C1Cl)C=1C=C2CCCN3C2=C(C1)[C@@H]1[C@H]3CCN(C1)CCC | C23H26Cl2N2
